US07635711B2
Synthesis of 5-Bromo-2-methoxy-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide
A mixture of 100 mg (0.44 mmol) of 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine and 143 mg (0.50 mmol) of 5-bromo-2-methoxybenzenesulfonyl chloride in 4 mL of pyridine was warmed at 65° C. After 16 hours, the mixture was cooled and concentrated to afford a thick oily residue. The residue was diluted with 10% acetic acid and extracted with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium bicarbonate solution and brine, dried over sodium sulfate, decanted, and concentrated in vacuo. The crude material was purified by preparative TLC using ethyl acetate-hexanes (15:85). Material from the plate was isolated by suspending the silica gel in ethyl acetate followed by filtration. The filtrate was concentrated in vacuo to afford 66 mg (32%) of the title compound as a crystalline solid.

reactant | 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine | 0.44 mmol, 100 mg | FC(C(CC1=CNC2=CC=CC=C12)N)(F)F | C11H11F3N2
reactant | 5-bromo-2-methoxybenzenesulfonyl chloride | 0.50 mmol, 143 mg | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-2-methoxy-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 66 mg, 32% | BrC=1C=CC(=C(C1)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12)OC | C18H16BrF3N2O3S
